US06514964B1
Step A: 3-(((2-bromophenyl)methyl)amino)propan-1-ol
To a stirring solution of 2-bromobenzaldehyde in dichloroethane (0.4 M) at RT under nitrogen was added 3-aminopropanol (1.5 eq), sodium triacetoxyborohydride (2 eq), and acetic acid (4 eq). After 5 hr the reaction was carefully quenched with 2M sodium carbonate and extracted with methylene chloride. The organic phase was extracted with 1N hydrochloric acid. The aqueous phase was neutralized with 1N sodium hydroxide and extracted with methylene chloride. The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo to afford the product. EI-MS m/z 245 (M+H)+

reactant | 2-bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 3-aminopropanol | 1.5 eq | NCCCO | C3H9NO
reactant | sodium triacetoxyborohydride | 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4 eq | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 0.4 M | ClC(C)Cl | C2H4Cl2
product | 3-(((2-bromophenyl)methyl)amino)propan-1-ol | BrC1=C(C=CC=C1)CNCCCO | C10H14BrNO
